* source I-COMPARADOR-01
M_M2         VDIFERENCIAL IN+ VEQUILIBRIO 0 CMOSN  
+ L=.2u  
+ W=.4u         
V_VREF         IN+ N398131 0
M_M3         N39461 N39461 N39211 N39211 CMOSP  
+ L=.2u  
+ W=.6u         
M_M4         VDIFERENCIAL N39461 N39211 N39211 CMOSP  
+ L=.2u  
+ W=.6u         
M_M5         VEQUILIBRIO VBIAS 0 0 CMOSN  
+ L=.2u  
+ W=.6u         
V_VQ+         N398131 0 1
V_VIN         IN- N43113  
+SIN 0 20m 100k 0 0 0
M_M6         OUT VDIFERENCIAL N39211 N39211 CMOSP  
+ L=.2u  
+ W=.8u         
V_VBIAS         VBIAS 0 .33
M_M7         OUT VBIAS 0 0 CMOSN  
+ L=.2u  
+ W=.4u         
V_VQ-         N43113 0 1
M_M1         N39461 IN- VEQUILIBRIO 0 CMOSN  
+ L=.2u  
+ W=.4u         
V_VDD         N39211 0 3.3
